US06054470
To a stirred solution of 5-bromo-4-methyl-3-nitro-2-pyridone (0.60 g, 2.5 mmol) in DMF (15 mL) was added sodium hydride (60% suspension in oil, 0.103 g). After 30 minutes, 4-methoxybenzyl chloride (0.35 mL) was added, and the mixture was stirred overnight at rt. Ethyl acetate was added and the organic phase was washed with water, dried (Na2SO4), filtered and evaporated. Chromatography of the residue over silica gel (ethyl acetate/hexane 1/1) gave 1-(4-methoxybenzyl)-5-bromo-4-methyl-3-nitro-2-pyridone (0.60 g, 1.7 mmol, 68%).

reactant | 5-bromo-4-methyl-3-nitro-2-pyridone | 2.5 mmol, 0.60 g | BrC=1C(=C(C(NC1)=O)[N+](=O)[O-])C | C6H5BrN2O3
reactant | sodium hydride | 0.103 g | [H-].[Na+]
reactant | 4-methoxybenzyl chloride | 0.35 mL | COC1=CC=C(CCl)C=C1 | C8H9ClO
reactant | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
product | 1-(4-methoxybenzyl)-5-bromo-4-methyl-3-nitro-2-pyridone | 1.7 mmol, 0.60 g, 68% | COC1=CC=C(CN2C(C(=C(C(=C2)Br)C)[N+](=O)[O-])=O)C=C1 | C14H13BrN2O4
